* Testcase 001163 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVBB VBB 0 0.75
VIIN IIN 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)

* Circuit
V1 VBB GND 0
IG VDD Q4_C 1u
ITUNE VDD Q1_C 1u
IBIAS VDD IIN 1u
XQD Q1_C Q1_C VEI 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQO IO_PLUS VBB Q4_E 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQI IIN VBB VEI 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQEF Q4_C Q1_C Q4_E 0 sky130_fd_pr__npn_05v5_W1p00L1p00
C Q1_C VBB 1p
IFB2 Q4_E GND 1u
IFB1 VEI GND 1u

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
print power_dc

print all

quit
.endc

.end
